US07326732B2
(iv) 3-Aminomethyl-benzoic acid methyl ester
A 20% solution of piperidine in DMF (5 ml) was added to 3-[(9H-Fluoren-9-ylmethoxycarbonylamino)-methyl]-benzoic acid methyl ester (193 mg, 0.5 mmol) and the reaction was stirred at room temperature for 30 min. Water (10 ml) was added to the crude reaction mixture, followed by 1M HCl (10 ml). The aqueous layer was washed with EtOAc (3×10 ml) then basified to pH 9 with saturated NaHCO3. The basic layer was extracted with EtOAc (3×10 ml) and the aqueous layer was evaporated down to a small volume, then further extracted with EtOAc (5×10 ml). The combined organic layers were dried (MgSO4), filtered and the solvent evaporated in vacuo to give the title compound.

reactant | piperidine | N1CCCCC1 | C5H11N
reactant | 3-[(9H-Fluoren-9-ylmethoxycarbonylamino)-methyl]-benzoic acid methyl ester | 0.5 mmol, 193 mg | COC(C1=CC(=CC=C1)CNC(=O)OCC1C2=CC=CC=C2C=2C=CC=CC12)=O | C24H21NO4
reactant | Water | 10 ml | O | H2O
reactant | HCl | 1M, 10 ml | Cl | ClH
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
product | 3-Aminomethyl-benzoic acid methyl ester | COC(C1=CC(=CC=C1)CN)=O | C9H11NO2
